US07253198B2
To a solution of 3-amino-5-bromo-benzoic acid methyl ester (D12) (460 mg, 2.0 mmol, 1 equiv) in CH2Cl2 (10 ml) at room temperature was added NEt3 (306 μl, 2.2 mmol, 1.1 equiv) then 4-chlorobutyrylchloride (247 μl, 2.2 mmol, 1.1 equiv). The resulting mixture was stirred at room temperature for 16 h and then diluted with AcOEt. The organic phase was washed with 2N aqueous HCl solution, dried over MgSO4 and concentrated in vacuo to give 3-bromo-5-(4-chloro-butanoylamino)-benzoic acid methyl ester (D13) (530 mg, 79%) as a pale yellow oil. RT=2.88 s

reactant | 3-amino-5-bromo-benzoic acid methyl ester | 2.0 mmol, 460 mg, 1 equiv | COC(C1=CC(=CC(=C1)Br)N)=O | C8H8BrNO2
reactant | NEt3 | 2.2 mmol, 306 μl, 1.1 equiv | CCN(CC)CC | C6H15N
reactant | 4-chlorobutyrylchloride | 2.2 mmol, 247 μl, 1.1 equiv | ClCCCC(=O)Cl | C4H6Cl2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3-bromo-5-(4-chloro-butanoylamino)-benzoic acid methyl ester | 530 mg, 79% | COC(C1=CC(=CC(=C1)NC(CCCCl)=O)Br)=O | C12H13BrClNO3
